US08076491B2
methyl 2-(2-(methylthio)benzylamino)acetate
Prepared as in example 10-10a from glycine methyl ester and 2-(methylthio)benzaldehyde. Yield 50%. MS M+H calculated 226.1; found 226.1

reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
reactant | 2-(methylthio)benzaldehyde | CSC1=C(C=O)C=CC=C1 | C8H8OS
product | methyl 2-(2-(methylthio)benzylamino)acetate | Yield 50% | CSC1=C(CNCC(=O)OC)C=CC=C1 | C11H15NO2S
